US05594023
A) 2-[2-(tert-Butoxycarbonylamino)ethoxy]ethanol
21.8 g of di-tert-butyl dicarbonate are added in portions at RT to a solution of 10.5 g of 2-(2-aminoethoxy)ethanol in 50 ml of 1,4-dioxane and the reaction mixture is stirred for 2 hours at RT. It is poured into water and extracted three times with AcOEt, the organic phase is washed twice with 20 ml of water and dried over sodium sulfate and the solvent is evaporated off under vacuum to give 18.5 g of the expected product in the form of an oil, which is used as such in the next step.

reactant | di-tert-butyl dicarbonate | 21.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(2-aminoethoxy)ethanol | 10.5 g | NCCOCCO | C4H11NO2
reactant | water | O | H2O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-[2-(tert-Butoxycarbonylamino)ethoxy]ethanol | 18.5 g | C(C)(C)(C)OC(=O)NCCOCCO | C9H19NO4
